US07939524B2
c) Methyl (1R,2S,3R,4S)-3-aminobicyclo[2.2.1]heptane-2-carboxylate Hydrochloride
Methyl (1S,2S,3R,4R)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate (1 g, 3.32 mmol) was dissolved in ethyl acetate (15 mL). 5% Palladium on carbon (120 mg) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford a thick clear oil. The oil was dissolved in diethyl ether (10 mL) and added dropwise, with vigorous stirring, to a mixture of 4.0 M hydrochloric acid solution in 1,4-dioxane (1.8 mL, 7.2 mmol) in diethyl ether (18 mL). The desired product began to precipitate as a white solid. Additional diethyl ether (10 mL) was added and the mixture was stirred for 10 min. The precipitate was collected by vacuum filtration and washed with additional diethyl ether (2×8 mL). The solid was further dried in vacuo for 1 h to afford the desired product, methyl (1R,2S,3R,4S)-3-aminobicyclo[2.2.1]heptane-2-carboxylate hydrochloride (0.554 g, 2.7 mmol, 81%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 1.18-1.27 (3H, m), 1.37-1.61 (2H, m), 1.90 (1H, d, J=11.0 Hz), 2.35 (1H, d, J=3.8 Hz), 2.44 (1H, d, J=3.1 Hz), 2.75 (1H, d, J=8.7 Hz), 3.29-3.34 (1H, m), 3.61 (3H, s), 8.03 (3H, bs). LC-MS (ESI) calcd for C9H15NO2 (free amine) 169.11, found 170.3 [M+H+] (100%), 339.3 [2M+H+] (50%).

reactant | Methyl (1S,2S,3R,4R)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate | 3.32 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)OC | C17H19NO4
reactant | hydrochloric acid | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 7.2 mmol, 1.8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 120 mg | [Pd] | Pd
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
product | Methyl (1R,2S,3R,4S)-3-aminobicyclo[2.2.1]heptane-2-carboxylate Hydrochloride | Cl.N[C@H]1[C@H]([C@@H]2CC[C@H]1C2)C(=O)OC | InChI=1S/C9H15NO2.ClH/c1-12-9(11)7-5-2-3-6(4-5)8(7)10;/h5-8H,2-4,10H2,1H3;1H/t5-,6+,7+,8-;/m1./s1
